US04367234
2-Chloro-6-fluorobenzaldehyde (51.5 g., 0.030 mole) was taken into 500 ml. of methanol. Sodium hydroxide (14.4 g., 0.35 mole) was added and the stirred reaction mixture heated to reflux for 3 hours. The mixture was cooled to room temperature, and the volume reduced to 200 ml. by distillation in vacuo. Water (400 ml.) and methylene chloride (200 ml.) were added and the two phase system equilibrated. The organic phase was separated and the aqueous phase extracted with two additional 100 ml. portions of methylene chloride. The combined organic layers were dried over anhydrous sodium sulfate, filtered and the methylene chloride removed by distillation at atmospheric pressure with displacement by hexane (450 ml.) to a final volume of 300 ml. The product layer, initially present as an oil, began to crystallize at 45° C. The mixture was cooled to room temperature, granulated for 16 hours, and filtered to yield 2-chloro-6-methoxybenzaldehyde [35.6 g., 64.2%; Rf 0.2 (CHCl3 )].

reactant | 2-Chloro-6-fluorobenzaldehyde | 0.030 mole, 51.5 g | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | Sodium hydroxide | 0.35 mole, 14.4 g | [OH-].[Na+]
reactant | methanol | CO | CH4O
product | 2-chloro-6-methoxybenzaldehyde | 35.6 g, 64.2% | ClC1=C(C=O)C(=CC=C1)OC | C8H7ClO2
